US07285563B2
8-Bromoisoquinolin-3-ol
N-(2-Bromobenzyl)-2,2-diethoxyacetamide (Description 52; 15.6 g, 49 mmol) was carefully added to concentrated H2SO4 (78 ml) with stirring at 10-20° C. The reaction mixture was stirred at room temperature for 16 hours, poured into ice water and filtered. The filtrate was neutralised with 33% aqueous ammonium hydroxide and the resulting precipitate was filtered and dried to give the title compound (10.1 g, 91%).

reactant | N-(2-Bromobenzyl)-2,2-diethoxyacetamide | 49 mmol, 15.6 g | BrC1=C(CNC(C(OCC)OCC)=O)C=CC=C1 | C13H18BrNO3
reactant | H2SO4 | 78 ml | OS(=O)(=O)O | H2O4S
product | 8-Bromoisoquinolin-3-ol | 10.1 g, 91% | BrC=1C=CC=C2C=C(N=CC12)O | C9H6BrNO
